US04334062
7-Amino-3-[[4-amino-5-(1-pyrazolyl)-4H-1,2,4-triazol-3-ylthio]methyl]-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylic acid
A solution of 2.72 g. of 7-aminocephalosporanic acid, 1.82 g. of 4-amino-5-(1-pyrazolyl)-4H-1,2,4-triazole-3-thiol and 1.68 g. of sodium bicarbonate in 75 ml. of pH 6.4 phosphate buffer is stirred and heated at 60° C. for 7 hours. The resulting solution is cooled, acidified to pH 3 with 4 N hydrochloric acid and the precipitate is collected by filtration and dried, giving 2.6 g. of the desired product, I.R. 5.60μ (β-lactam carbonyl).

reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 4-amino-5-(1-pyrazolyl)-4H-1,2,4-triazole-3-thiol | NN1C(=NN=C1N1N=CC=C1)S | C5H6N6S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosphate | pH 6.4 | P(=O)([O-])([O-])[O-]
reactant | hydrochloric acid | 4 N | Cl | ClH
product | 7-Amino-3-[[4-amino-5-(1-pyrazolyl)-4H-1,2,4-triazol-3-ylthio]methyl]-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylic acid | NC1C2SCC(=C(N2C1=O)C(=O)O)CSC1=NN=C(N1N)N1N=CC=C1 | C13H14N8O3S2
